US04446028
Isopropenyl Phosphonic Acid/Hydroxyethylmethacrylate (3:1 molar ratio)
Aqueous isopropenyl phosphonic acid (71 g, 54%, 0.3 mole) and hydroxyethylmethacrylate (13 g, 0.1 mole) were mixed with 121.6 g water in a resin kettle. Ammonium persulfate (6 g) was added. After 11/2 hours of reflux, an additional 6 g of initiator was added followed by another 11/2 hours of reflux. The final product was a yellow solution with a pH of 0.68. The 31PMR showed polymeric absorptions centered at δ=-29.5 and -24.3 ppm.

reactant | isopropenyl phosphonic acid | 0.3 mole, 71 g | C(=C)(C)P(O)(O)=O | C3H7O3P
reactant | hydroxyethylmethacrylate | 0.1 mole, 13 g | OCCOC(C(=C)C)=O | C6H10O3
reactant | Ammonium persulfate | 6 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 121.6 g | O | H2O
product | Isopropenyl Phosphonic Acid Hydroxyethylmethacrylate | C(=C)(C)P(O)(O)=O.OCCOC(C(=C)C)=O | InChI=1S/C6H10O3.C3H7O3P/c1-5(2)6(8)9-4-3-7;1-3(2)7(4,5)6/h7H,1,3-4H2,2H3;1H2,2H3,(H2,4,5,6)
